US06147078
STEP A: 3-CHLORO-1-ETHOXYCARBONYLMETHYL-6-METHYLPYRAZINONE
PHOSPHOROUS OXYCHLORIDE (2.8 ML, 30 MMOL) WAS ADDED TO A STIRRED MIXTURE OF 1-ETHOXYCARBONYLMETHYL-3-HYDROXY-6-METHYLPYRAZINONE (5.3 G, 25 MMOL) IN DRY TOLUENE (50 ML) UNDER ARGON. THE RESULTING MIXTURE WAS HEATED TO 60° C. AFTER 64 H, THE MIXTURE WAS COOLED AND WATER AND ETHYL ACETATE WERE ADDED. THE ORGANIC LAYER WAS DRIED (NA2SO4) AND EVAPORATED IN VACUO. THE RESIDUE WAS PURIFIED BY FLASH COLUMN CHROMATOGRAPHY ON SILICA GEL (50% ETOAC/HEXANES) TO GIVE THE TITLE COMPOUND AS A CRYSTALLINE SOLID:

reactant | PHOSPHOROUS OXYCHLORIDE | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 1-ETHOXYCARBONYLMETHYL-3-HYDROXY-6-METHYLPYRAZINONE | C(C)OC(=O)CN1C(C(=NC=C1C)O)=O | C9H12N2O4
reactant | WATER | O | H2O
reactant | ETHYL ACETATE | C(C)(=O)OCC | C4H8O2
solvent | TOLUENE | C1(=CC=CC=C1)C | C7H8
product | 3-CHLORO-1-ETHOXYCARBONYLMETHYL-6-METHYLPYRAZINONE | ClC=1C(N(C(=CN1)C)CC(=O)OCC)=O | C9H11ClN2O3
